US05708008
N-n-butyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea
Beginning with 15.0 mg (0.0655 mMol) 5-amino-3-(1methyl-dimethyl-piperidin-4-yl)-1H indole and 11.1 mg (0.131 mMol) n-butyl isocyanate, 20.6 mg (96%) of the title compound were recovered.

reactant | 5-amino-3-(1methyl-dimethyl-piperidin-4-yl)-1H indole | 0.0655 mMol, 15.0 mg | NC=1C=C2C(=CNC2=CC1)C1CC(N(CC1)C)(C)C | C16H23N3
reactant | n-butyl isocyanate | 0.131 mMol, 11.1 mg | C(CCC)N=C=O | C5H9NO
product | N-n-butyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea | 20.6 mg, 96% | C(CCC)NC(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C19H28N4O
